US05998433
c) Synthesis of 6-tert-butoxycarbonyl-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepine
A solution of 0.515 g (2.266 mmol) of 6-benzyl-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepine in 30 ml of methanol was hydrogenated overnight at room temperature at atmospheric pressure over 0.5 g of 10% palladium-carbon (50% hydrated). After the catalyst was filtered off, the filtrate was concentrated under reduced pressure. The resulting residue (crude 5,6,7,8-tetrahydro-4H-furo[2,3-d]azepine) was dissolved in 20 ml of dichloromethane. To this solution, a solution of 0.49 g (2.3 mmol) of di-tert-butyl dicarbonate in 5 ml of dichloromethane was added dropwise at room temperature, followed by overnight stirring. The solvent was distilled off under reduced pressure; water was added, followed by 3 extractions with ethyl acetate. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=15/1) to yield the desired product.

reactant | 6-benzyl-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepine | 2.266 mmol, 0.515 g | C(C1=CC=CC=C1)N1CCC2=C(CC1)C=CO2 | C15H17NO
reactant | di-tert-butyl dicarbonate | 2.3 mmol, 0.49 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 30 ml | CO | CH4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
product | 6-tert-butoxycarbonyl-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CO2 | C13H19NO3
